US07351733B2
N-Pyrimidin-2-yl-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine (150 mg, 0.81 mmol) and 2-chloropyrimidine (184 mg, 1.62 mmol) in a similar manner as described in Example 22 to give 16 mg (8%) of a yellow solid. 1H-NMR (DMSO-d6): δ 10.63 (s, 1H), 8.32 (d, 2H), 7.43 (d, 1H), 7.36 (d, 1H), 7.25 (d, 1H), 7.01-6.97 (m, 1H), 6.93-6.89 (m, 1H), 6.60 (t, 1H), 5.32-5.28 (m, 1H), 2.68-2.57 (m, 2H), 2.041.97 (m, 2H), 1.87-1.75 (m, 2H).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | 0.81 mmol, 150 mg | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 2-chloropyrimidine | 1.62 mmol, 184 mg | ClC1=NC=CC=N1 | C4H3ClN2
product | N-Pyrimidin-2-yl-2,3,4,9-tetrahydro-1H-carbazol-1-amine | N1=C(N=CC=C1)NC1CCCC=2C3=CC=CC=C3NC12 | C16H16N4
